*$
* OPAx211
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPAx211
* Date: 15JUN2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS377L -OCTOBER 2006-REVISED JANUARY 2020
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.4
*
*****************************************************************************
*
* Updates:
*
* Final 1.4
* 1. Moved R_NOISELESS .model inside OPAx211 subckt.
* 2. Updated PSpice Symbol.
*
* Final 1.3
* 1. Modified the capacitor(C14) value from 1F to 5uF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Updated Aol to match the GBW and UGB as per the datasheet.
* 3. Updated Zo@DC to 5.13Kohms.
* 4. Updated Overload recovery time and Aol DC gain as per the datasheet.
* 5. Matched CLAWp curve as per the datasheet(at 85'c).
*
* Final 1.2
* 1. Updated with unique subckt name, Vos drift and edits in claw block
*
* Final 1.1 
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
* 2. OPAx211 model is available in single core(OPA211) and dual core
*    (OPA2211). 
* 3. CLAWp and CLAWn curves of OPAx211 device is modelled as per the target
*    curve from datasheet for the tempreature at 85'c.
*****************************************************************************
.SUBCKT OPAx211 IN+ IN- VCC VEE OUT  
*****************************************************************************
C_C1          N3126023 N3126031  19.89F   
C_C10         N3116503 N3116515  1.027U   
C_C13         0 N2528632  1F   
C_C14         0 N2528610  5U   
C_C15         0 N2528648  1F   
C_C16         MID N2527926  1F   
C_C17         MID N2527950  1F   
C_C18         MID N2527996  1F   
C_C19         MID N2528016  1F   
C_C2          N3128929 N2527534  189.47P   
C_C20         MID N2528092  1F   
C_C21         MID N2528110  1F   
C_C22         MID N2528154  1F   
C_C23         N2528218 MID  1F   
C_C24         MID N2528214  1F   
C_C25         MID N2528278  1P   
C_C26         MID N2528284  1P   
C_C27         MID SW_OL_OPAx211  1N   
C_C29         VIMON MID  1P   
C_C3          N3130359 N2527538  345.99P   
C_C30         VOUT_S MID  1P   
C_C4          N2527614 MID  1F   
C_C5          CLAMP MID  10.70N   
C_C59         MID N3117073  1.137P   
C_C60         N3116655 N3116665  318.3F   
C_C62         N3126041 N3126049  318.3P   
C_C65         N3108745 N3108755  83.77F   
C_C66         MID N3108917  6.537E-16   
C_C67         MID N3108949  14.25F   
C_C68         N3108765 N3108775  842.1F   
C_C69         MID N3109015  1.979E-16   
C_C70         VCLP MID  1P   
C_C71         N3116609 N3116619  1.061N   
C_C_COM0      ESDP MID  2P   
C_C_COM1      MID ESDN  2P   
C_C_DIFF      ESDN ESDP  8P   
E_E1          MID 0 N2528610 0 1
E_E3          N2528398 MID OUT MID 1
E_E4          N3116457 MID CL_CLAMP MID 1
G_G1          N3126023 MID ESDP MID -125U
G_G12         CLAW_CLAMP MID N3109015 MID -1M
G_G13         CL_CLAMP MID CLAW_CLAMP MID -1M
G_G16         N3116609 MID N3116515 MID -12.9K
G_G18         VCC_B 0 VCC 0 -1
G_G19         VEE_B 0 VEE 0 -1
G_G2          N2527438 N2527430 N2527428 MID -1M
G_G20         VCC_CLP MID N2528218 MID -1M
G_G21         VEE_CLP MID N2528214 MID -1M
G_G22         N2528534 MID N2528530 MID -1
G_G23         N2528558 MID N2528566 MID -1
G_G28         N3126041 MID N3126031 MID -1
G_G29         N2527428 MID N3126049 MID -240
G_G3          N3128929 MID VEE_B MID -88.072M
G_G34         N3108745 MID VSENSE MID -1.053K
G_G35         N3108917 MID N3108755 MID -1U
G_G36         N3108949 MID N3108917 MID -1U
G_G37         N3108765 MID N3108949 MID -10.58K
G_G38         N3109015 MID N3108775 MID -1U
G_G39         N3116503 MID CL_CLAMP N2528470 -89.05
G_G4          N3130359 MID VCC_B MID -126.65M
G_G40         N3116675 MID N3116619 MID -10.67
G_G5          N2527544 N2527540 N2527538 N2527534 -1M
G_G6          VSENSE MID CLAMP MID -1M
G_GA13        N3116655 MID N3116685 MID -1
I_I_B         N2527376 MID DC 50N  
I_I_OS        ESDN MID DC 30N  
I_I_Q         VCC VEE DC 3.6M  
R_R10         MID N3128929 R_NOISELESS 1
R_R11         MID N2527534 R_NOISELESS 105.6605
R_R12         N2527538 N3130359 R_NOISELESS 100MEG
R_R13         MID N3130359 R_NOISELESS 1
R_R139        N3116685 N3116675 R_NOISELESS 7.665MEG
R_R14         MID N2527538 R_NOISELESS 73.4749
R_R140        N3117073 N3116685 R_NOISELESS 10K
R_R141        MID N3116675 R_NOISELESS 1
R_R142        N3116665 N3116655 R_NOISELESS 10K
R_R143        MID N3116655 R_NOISELESS 1
R_R144        MID N3116665 R_NOISELESS 340.1M
R_R146        N3126049 N3126041 R_NOISELESS 10K
R_R147        MID N3126041 R_NOISELESS 1
R_R148        MID N3126049 R_NOISELESS 41.84
R_R149        MID N2527428 R_NOISELESS 1
R_R15         N2527540 N2527438 R_NOISELESS 1M
R_R158        N3108755 N3108745 R_NOISELESS 10K
R_R159        MID N3108745 R_NOISELESS 1
R_R16         N2527544 N2527540 R_NOISELESS 1K
R_R160        MID N3108755 R_NOISELESS 9.509
R_R161        MID N3108917 R_NOISELESS 1MEG
R_R162        MID N3108949 R_NOISELESS 1MEG
R_R163        N3108775 N3108765 R_NOISELESS 10K
R_R164        MID N3108765 R_NOISELESS 1
R_R165        MID N3108775 R_NOISELESS 945.1M
R_R166        MID N3109015 R_NOISELESS 1MEG
R_R167        N3116457 VCLP R_NOISELESS 100
R_R168        N3116619 N3116609 R_NOISELESS 10K
R_R169        MID N3116609 R_NOISELESS 1
R_R17         N2527576 ESDN R_NOISELESS 1M
R_R170        MID N3116619 R_NOISELESS 1.034K
R_R18         MID N2527580 R_NOISELESS 1T
R_R19         MID N2527592 R_NOISELESS 1T
R_R20         N2527600 MID R_NOISELESS 1
R_R21         N2527614 N2527600 R_NOISELESS 1M
R_R22         MID N2527624 R_NOISELESS 1MEG
R_R23         MID CLAMP R_NOISELESS 1MEG
R_R24         MID VSENSE R_NOISELESS 1K
R_R32         MID CLAW_CLAMP R_NOISELESS 1K
R_R33         MID CL_CLAMP R_NOISELESS 1K
R_R34         N3116515 N3116503 R_NOISELESS 10K
R_R35         MID N3116503 R_NOISELESS 1
R_R36         MID N3116515 R_NOISELESS 775.1M
R_R43         MID N3116957 R_NOISELESS 1
R_R46         VCC_B 0 R_NOISELESS 1
R_R47         VCC_B N2528632 R_NOISELESS 1M
R_R48         N2528632 N2528610 R_NOISELESS 1MEG
R_R49         N2528610 0 R_NOISELESS 1T
R_R5          MID N3126023 R_NOISELESS 1
R_R50         N2528610 N2528648 R_NOISELESS 1MEG
R_R51         N2528648 VEE_B R_NOISELESS 1M
R_R52         VEE_B 0 R_NOISELESS 1
R_R53         VCC_CLP MID R_NOISELESS 1T
R_R54         N2527914 MID R_NOISELESS 1
R_R55         N2527926 N2527914 R_NOISELESS 1M
R_R56         VEE_CLP MID R_NOISELESS 1T
R_R57         N2527948 MID R_NOISELESS 1
R_R58         N2527950 N2527948 R_NOISELESS 1M
R_R59         N2527992 MID R_NOISELESS 1T
R_R6          N3126031 N3126023 R_NOISELESS 100MEG
R_R60         N2527994 MID R_NOISELESS 1
R_R61         N2527996 N2527994 R_NOISELESS 1M
R_R62         N2528016 N2528022 R_NOISELESS 1M
R_R63         N2528034 MID R_NOISELESS 1T
R_R64         N2528022 MID R_NOISELESS 1
R_R65         N2528086 MID R_NOISELESS 1T
R_R66         N2528090 MID R_NOISELESS 1
R_R67         N2528092 N2528090 R_NOISELESS 1M
R_R68         N2528110 N2528116 R_NOISELESS 1M
R_R69         N2528128 MID R_NOISELESS 1T
R_R7          MID N3126031 R_NOISELESS 806.5K
R_R70         N2528116 MID R_NOISELESS 1
R_R71         N2528154 VSENSE R_NOISELESS 1M
R_R72         VCC_B N2528182 R_NOISELESS 1K
R_R73         N2528182 N2528218 R_NOISELESS 1M
R_R74         N2528186 VEE_B R_NOISELESS 1K
R_R75         N2528186 N2528214 R_NOISELESS 1M
R_R76         MID VCC_CLP R_NOISELESS 1K
R_R77         VEE_CLP MID R_NOISELESS 1K
R_R78         N2528558 MID R_NOISELESS 1
R_R79         N2528534 MID R_NOISELESS 1
R_R8          N2527438 N2527430 R_NOISELESS 1K
R_R80         V11 N2528278 R_NOISELESS 100
R_R81         V12 N2528284 R_NOISELESS 100
R_R82         N2528290 MID R_NOISELESS 1
R_R83         N2528290 SW_OL_OPAx211 R_NOISELESS 100
R_R9          N2527534 N3128929 R_NOISELESS 100MEG
R_RDUMMY      MID N2528470 R_NOISELESS 51.3K
R_RS_INN      IN- ESDN R_NOISELESS 10M
R_RS_INP      IN+ ESDP R_NOISELESS 10M
R_RX          N2528470 N3116957 R_NOISELESS 513K
R_RX1         MID N2528386 R_NOISELESS 1T
R_RX2         VIMON N2528386 R_NOISELESS 100
R_RX3         MID N2528398 R_NOISELESS 1T
R_RX4         VOUT_S N2528398 R_NOISELESS 100
R_R_CM1       ESDP MID R_NOISELESS 1T
R_R_CM2       MID ESDN R_NOISELESS 1T
R_R_DIFF      ESDN ESDP R_NOISELESS 100MEG
V_VCM_MAX     N2527580 VCC_B -1.4
V_VCM_MIN     N2527592 VEE_B 1.8
V_V_GRN       N2528128 MID -400
V_V_GRP       N2528086 MID 275
V_V_ISCN      N2528034 MID -69.656
V_V_ISCP      N2527992 MID 45.939
V_V_ORN       N2528530 VCLP -14.05
V_V_ORP       N2528566 VCLP 14.05
X_H1          N2528470 OUT N2528386 MID BLOCK_DC_H1_OPAx211 
X_H2          N2528522 N2528558 V12 MID BLOCK_DC_H2_OPAx211 
X_H3          N2528502 N2528534 V11 MID BLOCK_DC_H3_OPAx211 
X_S1          N2528502 CLAMP N2528502 CLAMP BLOCK_DC_S1_OPAx211 
X_S2          CLAMP N2528522 CLAMP N2528522 BLOCK_DC_S2_OPAx211 
X_U1          ESDP N2527376 VNSE_OPAx211 PARAMS: FLW=0.1 GLF=0.0115 RNV=1.8
X_U10         VCC_CLP VEE_CLP VOUT_S MID N2527914 N2527948 CLAMP_AMP_LO_OPAx211 PARAMS:
+  G=1
X_U11         N2527992 N2528034 VIMON MID N2527994 N2528022 CLAMP_AMP_LO_OPAx211
+  PARAMS: G=1
X_U12         N2528086 N2528128 N2528154 MID N2528090 N2528116 CLAMP_AMP_HI_OPAx211
+  PARAMS: G=10
X_U16         MID N2528290 N2528278 N2528284 OL_SENSE_OPAx211
X_U18         VIMON MID N2528182 VCC_B CLAWP_OPAx211
X_U19         MID VIMON VEE_B N2528186 CLAWN_OPAx211
X_U20         ESDN ESDP ESD_BB_OPAx211
X_U21         OUT VCC VEE ESD_OUT_OPAx211
X_U22         N2527996 N2528016 CL_CLAMP MID CL_SRC_OPAx211 PARAMS: GAIN=1 IPOS=1.10E1
+  INEG=-1.6E1
X_U23         N2528092 N2528110 CLAMP MID GR_SRC_OPAx211 PARAMS: GAIN=1 IPOS=0.6E1
+  INEG=-0.6E1
X_U25         SW_OL_OPAx211 MID N3116503 N3116515 SW_OL_OPAx211
X_U26         VIMON MID VCC MID IQ_SRC_OPAx211 PARAMS: GAIN=1E-3
X_U27         MID VIMON MID VEE IQ_SRC_OPAx211 PARAMS: GAIN=1E-3
X_U30         N2527614 N2527576 MID N2527624 AOL_1_OPAx211 PARAMS: GAIN=1E-4 IPOS=.5
+  INEG=-.5
X_U31         N2527624 MID MID CLAMP AOL_2_OPAx211 PARAMS: GAIN=5.378E-2 IPOS=0.295
+  INEG=-0.298
X_U32         N3116665 MID MID N3116957 ZO_SRC_OPAx211 PARAMS: GAIN=2.940E4 IPOS=50E9
+  INEG=-50E9
X_U35         N2527926 N2527950 CLAW_CLAMP MID CLAW_SRC_OPAx211 PARAMS: GAIN=1
+  IPOS=0.55E1 INEG=-0.8E1
X_U39         N2527376 MID FEMT_OPAx211 PARAMS: FLWF=0.1 GLFF=19.105 RNVF=3.42E6
X_U4          N2527430 N2527376 VOS_DRIFT_OPAx211 PARAMS: DC=17.21E-06 POL=1
+  DRIFT=0.15E-6
X_U40         ESDN MID FEMT_OPAx211 PARAMS: FLWF=0.1 GLFF=19.105 RNVF=3.42E6
X_U5          ESDN ESDP VCC VEE ESD_IN_OPAx211
X_U6          N2527544 MID N2527600 MID N2527580 N2527592 VCM_CLAMP_OPAx211 PARAMS:
+  GAIN=1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.ENDS OPAx211
*
.SUBCKT BLOCK_DC_H1_OPAx211 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_OPAx211
*
.SUBCKT BLOCK_DC_H2_OPAx211 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_OPAx211
*
.SUBCKT BLOCK_DC_H3_OPAx211 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_OPAx211
*
.SUBCKT BLOCK_DC_S1_OPAx211 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S1_OPAx211
*
.SUBCKT BLOCK_DC_S2_OPAx211 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=1E12 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S2_OPAx211
*
.SUBCKT AOL_1_OPAx211 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_OPAx211
*
.SUBCKT AOL_2_OPAx211 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=5.378E-2 IPOS=0.295 INEG=-0.298
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_OPAx211
*
.SUBCKT CLAMP_AMP_HI_OPAx211 VC+ VC- VIN COM VO+ VO- PARAMS: G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_OPAx211
*
.SUBCKT CLAMP_AMP_LO_OPAx211 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_OPAx211
*
.SUBCKT CLAWN_OPAx211 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,       0.20E-3)
+(46.953, 5.02E-04)
+(48.673, 6.43E-04)
+(51.081, 1.22E-03)
+(57.444, 3.95E-03)
+(61.916, 0.006816)
+(62.690, 0.007324)
+(64.238, 0.008527)
+(65.786, 0.009669)
+(67.334, 0.010742)
+(68.882, 0.011778)
+(69.656, 0.012297)
.ENDS  CLAWN_OPAx211
*
.SUBCKT CLAWP_OPAx211 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,      2.09E-04)
+(29.284, 2.64E-04)
+(32.430, 6.05E-04)
+(34.747, 1.41E-03)
+(35.835, 1.99E-03)
+(38.523, 5.80E-03)
+(41.062, 1.04E-02)
+(43.230, 1.21E-02)
+(45.939, 1.45E-02)
.ENDS  CLAWP_OPAx211
*
.SUBCKT CLAW_SRC_OPAx211 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.55E1 INEG=-0.8E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_OPAx211
*
.SUBCKT CL_SRC_OPAx211 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=1.10E1 INEG=-1.6E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_OPAx211
*
.SUBCKT ESD_BB_OPAx211 ESDN ESDP
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=700E-3 VOFF=0)
S1 ESDN ESDP ESDN ESDP ESD_SW
S2 ESDP ESDN ESDP ESDN ESD_SW
.ENDS  ESD_BB_OPAx211
*
.SUBCKT ESD_IN_OPAx211 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=100E-3)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_OPAx211
*
.SUBCKT ESD_OUT_OPAx211 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=500E-3 VOFF=100E-3)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_OPAx211
*
.SUBCKT FEMT_OPAx211 1 2 PARAMS: FLWF=0.1 GLFF=19.105 RNVF=3.42E6
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS  FEMT_OPAx211
*
.SUBCKT GR_SRC_OPAx211 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.6E1 INEG=-0.6E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_OPAx211
*
.SUBCKT IQ_SRC_OPAx211 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_OPAx211
*
.SUBCKT OL_SENSE_OPAx211 COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS  OL_SENSE_OPAx211
*
.SUBCKT SW_OL_OPAx211 SW_OL_OPAx211 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E12 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_OPAx211 MID OL_SW
.ENDS  SW_OL_OPAx211
*
.SUBCKT VCM_CLAMP_OPAx211 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_OPAx211
*
.SUBCKT VNSE_OPAx211 1 2 PARAMS: FLW=0.1 GLF=0.0115 RNV=1.8
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_OPAx211
*
.SUBCKT VOS_DRIFT_OPAx211 VOS+ VOS- PARAMS: DC=17.21E-06 POL=1 DRIFT=0.15E-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_OPAx211
*
.SUBCKT ZO_SRC_OPAx211 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=2.940E4 IPOS=50E9 INEG=-50E9
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_OPAx211
*
